US04220767
3-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-6-(3-pyridylmethyl)-1,2,4-triazin-5-one
3-Methylthio-6-(3-pyridylmethyl)-1,2,4-triazin-5-one (2.34 g) and 2-(5-methyl-4-imidazolylmethylthio)ethylamine (1.88 g) were heated together on anoil bath (160°-70°). The cooled mixture was triturated with boiling methanol and the solid was recrystallised from dimethylformamide to give the title compound as a colourless solid (2.53 g) m.p. 232°14 233°.

reactant | 3-Methylthio-6-(3-pyridylmethyl)-1,2,4-triazin-5-one | 2.34 g | CSC1=NN=C(C(N1)=O)CC=1C=NC=CC1 | C10H10N4OS
reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 1.88 g | CC1=C(N=CN1)CSCCN | C7H13N3S
product | 3-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-6-(3-pyridylmethyl)-1,2,4-triazin-5-one | 2.53 g | CC1=C(N=CN1)CSCCNC1=NN=C(C(N1)=O)CC=1C=NC=CC1 | C16H19N7OS
